US07528138B2
4-(2-Amino-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-6-yl)-phenol II-6
6-Bromo-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-2-ylamine (50 mg, 0.17 mmol) and 4-hydroxyphenylboronic acid (48 mg, 0.35 mmol) were suspended in dry DMF (1.4 ml). Aqueous 2M Na2CO3 (0.346 mL, 0.69 mmol) was added and the reaction mixture was degassed. [1,1-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) complex in dichloromethane (1:1 ratio, 8 mg, 0.010 mmol) was added and the mixture was heated in a microwave at 120° C. for 20 minutes. After allowing the reaction to cool down to room temperature, the mixture was concentrated under reduced pressure. The resulting solid was purified by silica gel chromatography eluting with EtOAc to afford the title compound as a yellow solid (35 mg, 67% yield). MS (ES+) 304. δH (DMSO-d6) 6.8 (1H, d), 7.1 (3H, m), 7.2 (1H, d), 7.3 (1H, t), 7.9 (1H, t), 8.6 (2H, m), 8.8 (1H, s), 9.2 (1H, s), 9.7 (1H, s).

reactant | 6-Bromo-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-2-ylamine | 0.17 mmol, 50 mg | BrC=1C=NC=2N(C1)N=C(C2C2=NC=CC=C2)N | C11H8BrN5
reactant | 4-hydroxyphenylboronic acid | 0.35 mmol, 48 mg | OC1=CC=C(C=C1)B(O)O | C6H7BO3
reactant | Na2CO3 | 0.69 mmol, 2M, 0.346 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dichloromethane | 0.010 mmol, 8 mg | ClCCl | CH2Cl2
solvent | DMF | 1.4 ml | CN(C)C=O | C3H7NO
product | 4-(2-Amino-3-pyridin-2-yl-pyrazolo[1,5-a]pyrimidin-6-yl)-phenol | 35 mg, 67% yield | NC1=NN2C(N=CC(=C2)C2=CC=C(C=C2)O)=C1C1=NC=CC=C1 | C17H13N5O
